US05075326
4.1 g (0.05 mol) of 3-methylpyrazole are added to a solution of 5.0 g (0.025 mol) of 2,4-dichloro-5-nitrothiazole in 50 ml of N-methyl-2-pyrrolidinone at room temperature. After the mixture has been left to stand at room temperature for four days, it is stirred into 500 ml of ice-water and the precipitate is filtered off, washed with water and dried. 5.8 g (94.9% of theory) of 4-chloro-2-(3-methyl-1-pyrazolyl)-5-nitrothiazole of melting point 153° C. are obtained.

reactant | 3-methylpyrazole | 0.05 mol, 4.1 g | CC1=NNC=C1 | C4H6N2
reactant | 2,4-dichloro-5-nitrothiazole | 0.025 mol, 5.0 g | ClC=1SC(=C(N1)Cl)[N+](=O)[O-] | C3Cl2N2O2S
solvent | N-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 4-chloro-2-(3-methyl-1-pyrazolyl)-5-nitrothiazole | 5.8 g, 94.9% | ClC=1N=C(SC1[N+](=O)[O-])N1N=C(C=C1)C | C7H5ClN4O2S
